US09079910B2
2.1 10 ml (7.1 mmol) of triethylamine and 379 mg (3.10 mmol) of 4-(dimethylamino)pyridine are added successively to a suspension of 7.60 g (31.0 mmol) of 5-iodo-7H-pyrrolo[2,3-d]pyrimidine (synthesis described in WO 2009/080682) in 200 ml of dichloromethane. A solution of 7.30 ml (34.0 mmol) of di-tert-butyl dicarbonate in 200 ml of dichloromethane is added dropwise thereto at room temperature with stirring. After stirring at room temperature for one hour, the reaction mixture is extracted three times with water. The organic phase is dried over sodium sulfate and evaporated, giving tert-butyl 5-iodopyrrolo[2,3-d]pyrimidine-7-carboxylate as yellow solid; HPLC/MS: 2.26 min, [M+H] 346.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 5-iodo-7H-pyrrolo[2,3-d]pyrimidine | 31.0 mmol, 7.60 g | IC1=CNC=2N=CN=CC21 | C6H4IN3
reactant | di-tert-butyl dicarbonate | 34.0 mmol, 7.30 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-(dimethylamino)pyridine | 3.10 mmol, 379 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | tert-butyl 5-iodopyrrolo[2,3-d]pyrimidine-7-carboxylate | IC1=CN(C=2N=CN=CC21)C(=O)OC(C)(C)C | C11H12IN3O2
